US08633313B2
4-Amino-6-((1-(2-(2-fluorophenyl)-1,5-naphthyridin-3-yl)ethyl)amino)-5-pyrimidinecarbonitrile
A mixture of 4-amino-6-chloro-5-pyrimidinecarbonitrile (0.045 g, 0.288 mmol), 1-(2-(2-fluorophenyl)-1,5-naphthyridin-3-yl)ethanamine TFA salt (0.110 g, 0.288 mmol), and n,n-diisopropylethylamine (0.251 mL, 1.44 mmol) in butan-1-ol (2.88 mL) was stirred at 120° C. After 5 h, the mixture was removed from the heat and cooled to room temperature. After cooling, the mixture was concentrated under reduced pressure to give brown syrup. To the residue was added water (30 mL) and the mixture was sonicated. The resulting precipitate was collected by filtration, washed with water (20 mL), and dried to give the desired product as a yellow solid. The solid was purified by column chromatography on a 40 g of Redi-Sep™ column using 0 to 100% gradient of CH2Cl2:MeOH:NH4OH (89:9:1) in CH2Cl2 over 14 min and then 100% isocratic of CH2Cl2:MeOH:NH4OH (89:9:1) for 14 min as eluent to give a yellow solid. The yellow solid was suspended in EtOAc-hexane (1:1) and filtered to give 4-amino-6-((1-(2-(2-fluorophenyl)-1,5-naphthyridin-3-yl)ethyl)amino)-5-pyrimidinecarbonitrile as a light yellow solid: 1H NMR (400 MHz, DMSO-d6) δ ppm 9.03 (1H, dd, J=4.2, 1.7 Hz), 8.68 (1H, s), 8.41 (1H, ddd, J=8.6, 1.6, 0.8 Hz), 7.85 (1H, d, J=7.2 Hz), 7.73-7.81 (2H, m), 7.58 (1H, br. s.), 7.45-7.53 (1H, m), 7.26-7.37 (2H, m), 7.17 (2H, br. s.), 5.24-5.36 (1H, m), 1.52 (3H, d, J=7.0 Hz); LC-MS (ESI) m/z 386.0 [M+H]+.

reactant | 4-amino-6-chloro-5-pyrimidinecarbonitrile | 0.288 mmol, 0.045 g | NC1=NC=NC(=C1C#N)Cl | C5H3ClN4
reactant | 1-(2-(2-fluorophenyl)-1,5-naphthyridin-3-yl)ethanamine TFA salt | 0.288 mmol, 0.110 g | OC(=O)C(F)(F)F.FC1=C(C=CC=C1)C1=NC2=CC=CN=C2C=C1C(C)N
reactant | n,n-diisopropylethylamine | 1.44 mmol, 0.251 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | water | 30 mL | O | H2O
solvent | butan-1-ol | 2.88 mL | C(CCC)O | C4H10O
product | 4-Amino-6-((1-(2-(2-fluorophenyl)-1,5-naphthyridin-3-yl)ethyl)amino)-5-pyrimidinecarbonitrile | NC1=NC=NC(=C1C#N)NC(C)C=1C(=NC2=CC=CN=C2C1)C1=C(C=CC=C1)F | C21H16FN7
